US07919621B2
Step 1: 6-Bromo-quinolin-2-ylamine (8a)
6-Bromo-2-chloro-quinoline (3.34 g, 13.8 mmol) was dissolved in p-methoxybenzylamine (5 mL) and heated to 140° C. for 1 hour. The mixture was cooled to room temperature, filtered, and concentrated. The residue was purified by silica gel chromatography, and the isolated material was refluxed in TFA (6 mL) for 1 hour. The mixture was concentrated and purified by silica gel chromatography to give the desired product, 8a.

reactant | 6-Bromo-2-chloro-quinoline | 13.8 mmol, 3.34 g | BrC=1C=C2C=CC(=NC2=CC1)Cl | C9H5BrClN
reactant | p-methoxybenzylamine | 5 mL | COC1=CC=C(CN)C=C1 | C8H11NO
product | 6-Bromo-quinolin-2-ylamine | BrC=1C=C2C=CC(=NC2=CC1)N | C9H7BrN2
